*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/LELO_BOOST_STEADY_STATE_TURN_lpe.spi
#else
.include ../../../work/xsch/LELO_BOOST_STEADY_STATE_TURN.spice
#endif
.include ../../../design/1812PS.lib
.include ../../../design/XGL6030.lib

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-4

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VDD      VDD  0 dc 20m
VC_CLK   VC_CLK 0 dc 568m
R1       OUT    0 100k
* typical - 568m slow Th 534m slow Tl 642m
* fast Th 480m
*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save i(v.xdut.v1) i(v.xdut.v4) i(v.xdut.v3) i(v.xdut.v5) i(v.xdut.v6) i(v.xdut.v7) i(v.xdut.v8) i(v.xdut.v9) i(v.xdut.v10)
.PROBE p(R1)

.save v(xdut.TEG)
.save v(xdut.VDDC)
.save v(xdut.V1)
.save v(xdut.VHSS1)
.save v(xdut.VLSS)
.save v(xdut.vc)
.save v(xdut.x6.net3)
.save v(xdut.OFF)
.save v(xdut.net23)      
*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.nodeset v(xdut.teg) = 0.01
.nodeset v(xdut.vddc) = 1.8
.nodeset v(xdut.vc) = 0.3

.control
set num_threads=8
set color0=white
set color1=black
unset askquit


tran 100n 2000u


write
quit


.endc

.end
